US08975254B2
a) (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)benzonitrile
The title compound was prepared from 4-(1H-pyrazol-5-yl)-2-(trifluoromethyl)benzonitrile (1.4 g, 5.90 mmol), (R)-tert-butyl 2-hydroxypropylcarbamate (1.03 g, 5.90 mmol), triphenylphosphine (2.32 g, 8.85 mmol) and di-tert-butyl azodicarboxylate (2.04 g, 8.85 mmol) using the method of Example 34(c). Yield 0.429 g. 1H NMR (400 MHz; MeOD): δ 1.52 (d, 3H), 2.98 (dd, 1H), 3.12 (dd, 1H), 4.43 (m, 1H), 6.87 (d, 1H), 7.77 (d, 1H), 7.98 (m, 1H), 8.21 (m, 1H), 8.33 (m, 1H).

reactant | 4-(1H-pyrazol-5-yl)-2-(trifluoromethyl)benzonitrile | 5.90 mmol, 1.4 g | N1N=CC=C1C1=CC(=C(C#N)C=C1)C(F)(F)F | C11H6F3N3
reactant | (R)-tert-butyl 2-hydroxypropylcarbamate | 5.90 mmol, 1.03 g | O[C@@H](CNC(OC(C)(C)C)=O)C | C8H17NO3
reactant | triphenylphosphine | 8.85 mmol, 2.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 8.85 mmol, 2.04 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)benzonitrile | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H13F3N4
